US07312241B2
(3-Methoxy-4-nitro-phenyl)-(3,4,5-trimethoxy-phenyl)-methanol was prepared analogously to (4-methoxy-3-nitro-phenyl)-(3,4,5-trimthoxy-phenyl)-methanol using 3,4,5-trimethoxy-bromobenzene (3.0 g, 12.1 mmol), magnesium turning (1.0 g, 24.3 mmol) and 3-methoxy-4-nitro-benzaldehyde (1.8 g, 10.1 mmol). The crude product was purified by flash chromatography (silica gel, Hexane:EtOAc 7:3) to afford (3-methoxy-4-nitro-phenyl)-(3,4,5-trimethoxy-phenyl)-methanol (2.1 g, 60%): 1H NMR (CDCl3) δ 7.82 (d, J=8 Hz, 1H), 7.23 (s, 1H), 6.97 (d, J=8 Hz, 1H), 6,54 (s, 2H), 5,76 (s, 1H), 4.76 (s, 1H), 3.96 (s, 3H), 3.85 (s, 9H).

reactant | 3,4,5-trimethoxy-bromobenzene | 12.1 mmol, 3.0 g | COC=1C=C(C=C(C1OC)OC)Br | C9H11BrO3
reactant | magnesium | 24.3 mmol, 1.0 g | [Mg] | Mg
reactant | 3-methoxy-4-nitro-benzaldehyde | 10.1 mmol, 1.8 g | COC=1C=C(C=O)C=CC1[N+](=O)[O-] | C8H7NO4
product | (3-methoxy-4-nitro-phenyl)-(3,4,5-trimethoxy-phenyl)-methanol | 2.1 g, 60% | COC=1C=C(C=CC1[N+](=O)[O-])C(O)C1=CC(=C(C(=C1)OC)OC)OC | C17H19NO7
